US05219847
II-2-2: Synthesis of 3-n-undecylpyridine
A mixture of 12.2 g (49 mmol) of 3-n-undecanoylpyridine, 7.60 g (0.15 mol) of hydrazine.monohydrate and 5.60 g (0.10 mol) of potassium hydroxide and 50 ml of triethylene glycol was heated at 110° to 125° C. for one hour, and further, at 180° to 185° C. for 6 hours. After cooling, 200 ml of water was added, and the mixture was extracted with diethyl ether, and after washing with water, the extract was dried with anhydrous sodium sulfate. After concentration under a reduced pressure, the residue was purified by distillation under a reduced pressure to obtain 11.0 g of the desired product (yield 95.6%).

reactant | 3-n-undecanoylpyridine | 49 mmol, 12.2 g | C(CCCCCCCCCC)(=O)C=1C=NC=CC1 | C16H25NO
reactant | hydrazine | 0.15 mol, 7.60 g | NN | H4N2
reactant | potassium hydroxide | 0.10 mol, 5.60 g | [OH-].[K+]
reactant | triethylene glycol | 50 ml | C(COCCOCCO)O | C6H14O4
solvent | water | 200 ml | O | H2O
product | 3-n-undecylpyridine | 11.0 g, yield 95.6% | C(CCCCCCCCCC)C=1C=NC=CC1 | C16H27N
